US06369088B2
5-Methoxy-3-(4-(4-chlorophenylacetylamino)phenyl)-3H-(1,3,4)oxadiazol-2-one
201 mg of 4-chlorophenylacetyl chloride were added dropwise to a mixture consisting of 200 mg of 5-methoxy-3-(4-aminophenyl)-3H-(1,3,4)oxadiazol-2-one, 20 ml of methylene chloride and 0.1 ml of pyridine cooled in ice, and the mixture was stirred at room temperature for 5 hours. Volatiles were removed in vacuo. The residue was stirred with water and the solid was filtered off with suction and dried at 40° C. in vacuo.

reactant | 4-chlorophenylacetyl chloride | 201 mg | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | 5-methoxy-3-(4-aminophenyl)-3H-(1,3,4)oxadiazol-2-one | 200 mg | COC1=NN(C(O1)=O)C1=CC=C(C=C1)N | C9H9N3O3
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
product | 5-Methoxy-3-(4-(4-chlorophenylacetylamino)phenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC=C(C=C1)NC(CC1=CC=C(C=C1)Cl)=O | C17H14ClN3O4
